US09169246B2
Step 15.2. N-{4-[4-oxo-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-3-yl}acetamide hydrochloride
The product is obtained according to the procedure described in Step 3.4. starting with N-{3-[4-oxo-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide and N-{3-[4-oxo-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide, in the form of a white powder (hydrochloride, 1.5 H2O; yield 66%).

reactant | N-{3-[4-oxo-1-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide | O=C1N(C=2C=C(C=CC2C2=C1C=NN2C2OCCCC2)C=2C(=NC=CC2)NC(C)=O)CC(F)(F)F | C24H22F3N5O3
reactant | N-{3-[4-oxo-2-(tetrahydro-2H-pyran-2-yl)-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-2-yl}acetamide | O=C1N(C=2C=C(C=CC2C2=C1CN(N2)C2OCCCC2)C=2C(=NC=CC2)NC(C)=O)CC(F)(F)F | C24H24F3N5O3
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | N-{4-[4-oxo-5-(2,2,2-trifluoroethyl)-4,5-dihydro-1H-pyrazolo[4,3-c]quinolin-7-yl]pyrid-3-yl}acetamide hydrochloride | yield 66% | Cl.O=C1N(C=2C=C(C=CC2C2=C1C=NN2)C2=C(C=NC=C2)NC(C)=O)CC(F)(F)F | InChI=1S/C19H14F3N5O2.ClH/c1-10(28)25-15-8-23-5-4-12(15)11-2-3-13-16(6-11)27(9-19(20,21)22)18(29)14-7-24-26-17(13)14;/h2-8H,9H2,1H3,(H,24,26)(H,25,28);1H
